US06992087B2
Preparation of cis-(+/−)-4-{[3,6-diethyl-5-(4-methoxy-2-methylphenyl)pyrazin-2-yl]amino}tetrahydrofuran-3-yl 4-nitrobenzoate
Following the procedure for the preparation of (1S,2S)-1-{[5-(2,4-dichlorophenyl)-3,6-diethylpyrazin-2-yl]amino}-2,3-dihydro-1H-inden-2-yl 4-nitrobenzoate but substituting trans-(+/−)-4-{[3,6-diethyl-5-(4-methoxy-2-methylphenyl)pyrazin-2-yl]amino}tetrahydrofuran-3-ol and making non-critical variations provided the title compound as a light yellow semi-solid. MS (ESI+) for m/z 507.1 (M+H)+.

reactant | (1S,2S)-1-{[5-(2,4-dichlorophenyl)-3,6-diethylpyrazin-2-yl]amino}-2,3-dihydro-1H-inden-2-yl 4-nitrobenzoate | [N+](=O)([O-])C1=CC=C(C(=O)O[C@@H]2[C@H](C3=CC=CC=C3C2)NC2=NC(=C(N=C2CC)C2=C(C=C(C=C2)Cl)Cl)CC)C=C1 | C30H26Cl2N4O4
reactant | trans-(+/−)-4-{[3,6-diethyl-5-(4-methoxy-2-methylphenyl)pyrazin-2-yl]amino}tetrahydrofuran-3-ol | C(C)C=1C(=NC(=C(N1)C1=C(C=C(C=C1)OC)C)CC)N[C@H]1[C@@H](COC1)O | C20H27N3O3
product | cis-(+/−)-4-{[3,6-diethyl-5-(4-methoxy-2-methylphenyl)pyrazin-2-yl]amino}tetrahydrofuran-3-yl 4-nitrobenzoate | [N+](=O)([O-])C1=CC=C(C(=O)O[C@@H]2COC[C@@H]2NC2=NC(=C(N=C2CC)C2=C(C=C(C=C2)OC)C)CC)C=C1 | C27H30N4O6
